US05198208
(a) 1,4,7,10-Tetraazacyclododecane-4,7,10-triacetic acid tri-t-butyl ester
Sodium acetate (1.23 g, 15 mmol) was added to a stirred suspension of 1,4,7,10 tetraazacyclododecane (0.864 g, 5 mmol) (prepared in accordance with J. Am. Chem. Soc. 96 2268 (1974) and Liebigs Ann. Chem. 1340 (1977)) in N, N-dimethylacetamide (DMA) (15 ml) at ambient temperature. A solution of bromoacetic acid t-butyl ester (2.93 g, 15 mmol) in DMA (8 ml) was added dropwise to the stirred mixture, and the mixture was stirred at ambient temperature for 6 days. The solvent was evaporated and 1,4,7,10 -tetraazacyclododecane-4,7,10-triacetic acid trit-butyl ester was purified by flash chromatography on a silica column with chloroform:methanol 8:2 as eluent. Yield 1.8 g (70%). White solid, m.p. 165°-175° C.

reactant | Sodium acetate | 15 mmol, 1.23 g | C(C)(=O)[O-].[Na+]
reactant | 1,4,7,10 tetraazacyclododecane | 5 mmol, 0.864 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | bromoacetic acid t-butyl ester | 15 mmol, 2.93 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | N, N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
solvent | DMA | 8 ml | CN(C(C)=O)C | C4H9NO
product | 1,4,7,10-Tetraazacyclododecane-4,7,10-triacetic acid tri-t-butyl ester | C(C)(C)(C)OC(CN1CCNCCN(CCN(CC1)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)=O | C26H50N4O6
